US08071773B2
l) 3-(2-Hydroxy-ethyl)-3-hydroxymethyl-piperidin-2-one
A solution of 1 mmol of 3-ethoxycarbonylmethyl-2-oxo-piperidine-3-carboxylic acid ethyl ester, 1 mmol of calcium chloride, and 5 ml of methanol is cooled to 0° C. and treated with one portion of 1 mmol of sodium borohydride, keeping the temperature at 0-5° C. with cooling for 2 hours. The mixture is allowed to warm to room temperature overnight. The solids are filtered and washed with methanol. The methanol filtrate is concentrated. The residue is triturated with diethyl ether and decanted. The residue is treated with water and the separated solid is filtered and washed with water. The aqueous filtrates are saturated with potassium carbonate and extracted with dichloromethane (3×) methylene chloride. The combined organic extracts and are dried over potassium carbonate, filtered, and concentrated. From the residue the crude title compound is identified on the basis of the Rf value. The title compound is used without further purification in the next stage.

reactant | 3-ethoxycarbonylmethyl-2-oxo-piperidine-3-carboxylic acid ethyl ester | 1 mmol | C(C)OC(=O)C1(C(NCCC1)=O)CC(=O)OCC | C12H19NO5
reactant | calcium chloride | 1 mmol | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 1 mmol | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-(2-Hydroxy-ethyl)-3-hydroxymethyl-piperidin-2-one | OCCC1(C(NCCC1)=O)CO | C8H15NO3
